US07402680B2
1-Benzyl-3-(4-fluoro-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (706.2 mg) was prepared from 1.31 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 700 μL of benzylamine, and 1.10 g of 1-fluoro-4-(2-nitro-vinyl)-benzene. MS (ESI): exact mass calculated for C20H19FN2, 306.15; found, m/z 307.2 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.36-7.25 (m, 5H), 7.18-7.15 (m, 2H), 7.11-7.05 (m, 3H), 5.13 (s, 2H), 4.33 (s, 2H), 3.50 (t, J=6.3 Hz, 2H), 2.86 (t, J=6.3 Hz, 2H).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 1.31 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 1-fluoro-4-(2-nitro-vinyl)-benzene | 1.10 g | FC1=CC=C(C=C1)C=C[N+](=O)[O-] | C8H6FNO2
solvent | benzylamine | 700 μL | C(C1=CC=CC=C1)N | C7H9N
product | 1-Benzyl-3-(4-fluoro-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 706.2 mg | C(C1=CC=CC=C1)N1C=C(C=2CNCCC21)C2=CC=C(C=C2)F | C20H19FN2
